US07767675B2
4-(7-(1-(Quinolin-6-yl)cyclopropyl)imidazo[1,2-b][1,2,4]triazin-2-yl)-N-(tetrahydro-2H-pyran-4-yl)benzamide
This compound was prepared as a TFA salt starting from 4-[7-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-b][1,2,4]triazin-2-yl]benzoic acid using procedures analogous to those for Example 105. LCMS: (M+H)=491.1.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-[7-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-b][1,2,4]triazin-2-yl]benzoic acid | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=CN=C2N1N=C(C=N2)C2=CC=C(C(=O)O)C=C2 | C24H17N5O2
product | 4-(7-(1-(Quinolin-6-yl)cyclopropyl)imidazo[1,2-b][1,2,4]triazin-2-yl)-N-(tetrahydro-2H-pyran-4-yl)benzamide | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=CN=C2N1N=C(C=N2)C2=CC=C(C(=O)NC1CCOCC1)C=C2 | C29H26N6O2
